US04707487
4-[1-(4-PROPIONYLPHENYL)-4-PIPERIDYL]-1H-IMIDAZOLE
3 g (0.019 mole) of 4-(4-piperidyl)-1H-imidazole and 2.88 g (0.019 mole) of para-fluoropropiophenone are stirred in 70 cm3 of dimethylformamide for 5 minutes. 4 g (0.037 mole) of disodium carbonate and 0.2 g (0.0012 mole) of potassium iodide are added and the solution is brought to 160° C. for 3 hours. After being cooled, the solution is poured into 200 cm3 of water and stirred for 1 hour. The precipitate formed is drained, washed with water, dried and recrystallized in acetonitrile.

reactant | 4-(4-piperidyl)-1H-imidazole | 0.019 mole, 3 g | N1CCC(CC1)C=1N=CNC1 | C8H13N3
reactant | para-fluoropropiophenone | 0.019 mole, 2.88 g | FC1=CC=C(C=C1)C(CC)=O | C9H9FO
reactant | disodium carbonate | 0.037 mole, 4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.0012 mole, 0.2 g | [I-].[K+]
solvent | dimethylformamide | 70 cm3 | CN(C=O)C | C3H7NO
solvent | water | 200 cm3 | O | H2O
product | 4-[1-(4-PROPIONYLPHENYL)-4-PIPERIDYL]-1H-IMIDAZOLE | C(CC)(=O)C1=CC=C(C=C1)N1CCC(CC1)C=1N=CNC1 | C17H21N3O
